US07629424B2
In a 50-mL one neck round bottom flask, ascorbic acid, Catalog No. A92902 from Aldrich Co. (4.80 g) was dissolved in acetone (16.42 g). In the same flask, cis-endo-5-norbornene-2,3-dicarboxylic anhydride, Catalog No. 247634 from Aldrich Co. (4.42 g), and 4-dimethylaminopyridine, Catalog No. 522821 from Aldrich Co. (0.06 g), were added. The flask was heated while stirring in a 60° C. oil bath for 48 hours. Water (15 mL) was added and the flask was heated for another 12 hours. The product was extracted in ethyl acetate (100 mL) and dry with magnesium sulfate. The product, a mixture of bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid and 3-({(2S)-2-[(2R)-3,4-dihydroxy-5-oxo-2,5-dihydrofuran-2-yl]-2-hydroxyethoxy}carbonyl)bicyclo[2.2.1]hept-5-ene-2-carboxylic acid was isolated by removing ethyl acetate by rotary evaporation.

reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | cis-endo-5-norbornene-2,3-dicarboxylic anhydride | C1C2C=CC1[C@@H]3[C@H]2C(=O)OC3=O | C9H8O3
reactant | Water | 15 mL | O | H2O
solvent | acetone | 16.42 g | CC(=O)C | C3H6O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-({(2S)-2-[(2R)-3,4-dihydroxy-5-oxo-2,5-dihydrofuran-2-yl]-2-hydroxyethoxy}carbonyl)bicyclo[2.2.1]hept-5-ene-2-carboxylic acid | OC=1[C@H](OC(C1O)=O)[C@H](COC(=O)C1C(C2C=CC1C2)C(=O)O)O | C15H16O9
